US07851473B2
(5) 4-[4-(2,4-Dichlorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide
A mixture of 2,2,2-trichloroethyl pyridin-3-ylcarbamate (189 mg, 0.700 mmol), 1-[4-(2,4-dichlorophenyl)-1,3-thiazol-2-yl]piperazine (200 mg, 0.636 mmol) and diisopropylethylamine (0.222 ml, 1.27 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 days. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 126 mg (45.5%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl pyridin-3-ylcarbamate | 0.700 mmol, 189 mg | N1=CC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C8H7Cl3N2O2
reactant | 1-[4-(2,4-dichlorophenyl)-1,3-thiazol-2-yl]piperazine | 0.636 mmol, 200 mg | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1)N1CCNCC1 | C13H13Cl2N3S
reactant | diisopropylethylamine | 1.27 mmol, 0.222 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | 4-[4-(2,4-Dichlorophenyl)-1,3-thiazol-2-yl]-N-pyridin-3-ylpiperazine-1-carboxamide | 126 mg, 45.5% | ClC1=C(C=CC(=C1)Cl)C=1N=C(SC1)N1CCN(CC1)C(=O)NC=1C=NC=CC1 | C19H17Cl2N5OS
